US06117866
a) t-butyl 3-bromo-4-methylbenzoate
Dimethylformamide dimethyl acetal (48 mL, 200 mmol) was added dropwise over 15 min to a suspension of 3-bromo-4-methylbenzoic acid (85%; 10.75 g, 42.5 mmol) in toluene (100 mL) at 70° C. The reaction was stirred at 70-80° C. for an additional 0.5 h, then was cooled, washed sequentially with water and 5% sodium bicarbonate, and dried (sodium sulfate). The mixture was filtered through a pad of silica gel, and the filter pad was washed with toluene. The filtrate was concentrated to afford the title compound (8.0 g, 69%) as a yellow oil. TLC (toluene) Rf 0.68.

reactant | Dimethylformamide dimethyl acetal | 200 mmol, 48 mL | COC(N(C)C)OC | C5H13NO2
reactant | 3-bromo-4-methylbenzoic acid | 42.5 mmol, 10.75 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | t-butyl 3-bromo-4-methylbenzoate | 8.0 g, 69% | BrC=1C=C(C(=O)OC(C)(C)C)C=CC1C | C12H15BrO2
